US07067537B2
Production of 3-{4-[3-(1-azetidinylcarbonyl)phenyl]-1,3-thiazol-2-yl}-4-methylpyridine
3-[2-(4-Methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoic acid (238 mg) was suspended in THF (10 ml) and thionyl chloride (0.09 ml) and DMF (0.05 ml) were added. The mixture was heated under reflux for 1 hr. The reaction mixture was concentrated under reduced pressure and re-dissolved in THF (10 ml). To this solution was added a solution of azetidine hydrochloride (0.54 g) dissolved in 1N NaOH (10 ml), and the mixture was stirred at room temperature for 30 min. The reaction mixture extracted with ethyl acetate and the organic layer was dried and concentrated. The obtained residue was subjected to silica gel column chromatography (eluent, ethyl acetate) for purification and recrystallized from ethyl acetate-diisopropyl ether to give the title compound (148 mg) as colorless powder crystals.

reactant | 3-[2-(4-Methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoic acid | 238 mg | CC1=C(C=NC=C1)C=1SC=C(N1)C=1C=C(C(=O)O)C=CC1 | C16H12N2O2S
reactant | thionyl chloride | 0.09 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.05 ml | CN(C)C=O | C3H7NO
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-{4-[3-(1-azetidinylcarbonyl)phenyl]-1,3-thiazol-2-yl}-4-methylpyridine | 148 mg | N1(CCC1)C(=O)C=1C=C(C=CC1)C=1N=C(SC1)C=1C=NC=CC1C | C19H17N3OS
